US05155268
2'-(2-Bromoacetyl)methanesulfonanilide, Chart I; Step X
In a similar manner 4'-(2-bromoacetyl)-p-toluenesulfonanilide, (m.p. 174°-1765° with decomposition,) can be prepared by bromination of 4'-acetyl-p-toluenesulfonanilide (Preparation 1) [See R. H. Vloth, et al., J. Med. Chem. 9, 88 (1966)]. For this preparation anhydrous ether can also be used as solvent; benzoyl peroxide can be used as a catalyst. The product is crystallized from acetonitrile.

reactant | 4'-(2-bromoacetyl)-p-toluenesulfonanilide | BrCC(=O)C1=CC=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C15H14BrNO3S
reactant | 4'-acetyl-p-toluenesulfonanilide | C(C)(=O)C1=CC=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C15H15NO3S
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | ether | CCOCC | C4H10O
product | 2'-(2-Bromoacetyl)methanesulfonanilide | BrCC(=O)C1=C(NS(=O)(=O)C)C=CC=C1 | C9H10BrNO3S
